US06673797B1
(2) Preparation of 2-(2-Furyl)-5-methylthio-1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridine
To a solution of 2-benzenesulfonylamino-3-iodo-5-methylthiopyridine (1.60 g) in dioxane (40 ml), 2-ethynylfuran (725 mg), bis(triphenylphosphine) palladium chloride (138 mg), copper(I) iodide (75 mg) and triethylamine (598 mg) were added successively and the mixture was stirred in a sealed tube at 60° C. for 1 hour. After cooling, the reaction solution was poured into water, extracted with dichloromethane, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The resulting residue was separated using silica gel column chromatography (hexane:ethyl acetate=4:1) to obtain 1.24 g (85%) of the desired product as a brown oil.

reactant | 2-benzenesulfonylamino-3-iodo-5-methylthiopyridine | 1.60 g | C1(=CC=CC=C1)S(=O)(=O)NC1=NC=C(C=C1I)SC | C12H11IN2O2S2
reactant | 2-ethynylfuran | 725 mg | C(#C)C=1OC=CC1 | C6H4O
reactant | triethylamine | 598 mg | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
catalyst | bis(triphenylphosphine) palladium chloride | 138 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
catalyst | copper(I) iodide | 75 mg | [Cu]I
product | 2-(2-Furyl)-5-methylthio-1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridine | 1.24 g, 85% | O1C(=CC=C1)C1=CC=2C(=NC=C(C2)SC)N1S(=O)(=O)C1=CC=CC=C1 | C18H14N2O3S2
